US04616025
3.82 g (30 mmoles) of 2-cyanimino-thiazolidine, 5.63 g (30 moles) of 2-hydroxy-5-nitro-benzyl chloride and 4.3 g of anhydrous potassium carbonate are boiled in 100 ml of acetone for 6 hours. The mixture is cooled and the precipitate is filtered off. 9.85 g of a crude material are obtained, which is then dissolved in 600 ml of hot water, the impurities are filtered off, the pH is adjusted to 3, the mixture is cooled, filtered and the precipitate is dried. 5.1 g of 2-cyanimino-3-(2-hydroxy-5-nitro-benzyl)-thiazolidine are obtained, melting at 253° to 255° C. after crystallization from pyridine.

reactant | 2-cyanimino-thiazolidine | 30 mmoles, 3.82 g | C(#N)N=C1SCCN1 | C4H5N3S
reactant | 2-hydroxy-5-nitro-benzyl chloride | 30 moles, 5.63 g | OC1=C(CCl)C=C(C=C1)[N+](=O)[O-] | C7H6ClNO3
reactant | potassium carbonate | 4.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | 600 ml | O | H2O
product | 2-cyanimino-3-(2-hydroxy-5-nitro-benzyl)-thiazolidine | 5.1 g | C(#N)N=C1SCCN1CC1=C(C=CC(=C1)[N+](=O)[O-])O | C11H10N4O3S
